US03948973
p-(2,2-Dichloro-3,3-dimethylcyclopropyl)phenol was prepared from 65.8 g. of p-(2,2-dichloro-3,3-dimethylcyclopropyl)anisole and 37.5 g. of boron tribromide according to the procedure described above in Example 1, part (c). There was thus obtained 23.5 g. of p-(2,2-dichloro-3,3-dimethylcyclopropyl)phenol, m.p. 111°-111.5°C. when recrystallized from a benzene-hexane mixture.

reactant | p-(2,2-dichloro-3,3-dimethylcyclopropyl)anisole | ClC1(C(C1(C)C)C1=CC=C(C=C1)OC)Cl | C12H14Cl2O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | p-(2,2-Dichloro-3,3-dimethylcyclopropyl)phenol | ClC1(C(C1(C)C)C1=CC=C(C=C1)O)Cl | C11H12Cl2O
